US04668682
A mixture of 3.15 g (9.6 mmol) of 2-(2,5-dimethoxyphenylacetylamino)5-methylbenzoic acid (m.p. 163° to 164.5° C.) obtainble by the same method as in Synthesis example 2 and 0.90 g (20ml) of formamide were heated at 160° C. for 3 hours. After cooling, the solidified residue was added to a mixed solution of ethanol (100 ml) and acetone (100 ml) and dissolved therein by heating. After cooling, the precipitated crystals were collected by filtration to obtain 1.45 g (yield 49 %) of 2-(2,5-dimethoxyphenylmethyl)-6-methyl-4(3H)-quinazolinone.

reactant | 2-(2,5-dimethoxyphenylacetylamino)5-methylbenzoic acid | 9.6 mmol, 3.15 g | COC(C(=O)NC1=C(C(=O)O)C=C(C=C1)C)C1=CC=CC(=C1)OC | C18H19NO5
reactant | formamide | 20ml, 0.90 g | C(=O)N | CH3NO
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-(2,5-dimethoxyphenylmethyl)-6-methyl-4(3H)-quinazolinone | 1.45 g, yield 49 % | COC1=C(C=C(C=C1)OC)CC1=NC2=CC=C(C=C2C(N1)=O)C | C18H18N2O3
